US07981918B2
1-Chloro-3,4-difluoro-2-iodomethyl-5-trifluoromethyl-benzene
Treat a solution of 1-chloro-2-chloromethyl-3,4-difluoro-5-trifluoromethyl-benzene (1.0 g, 3.8 mmol) in acetone (10 mL) with sodium iodide (2.8 g, 19 mmol) and stir the reaction 1 hr at room temperature. Dilute the reaction in EtOAc (50 mL) and filter. Concentrate the filtrate to afford 1.35 g (100%) of product. 1H NMR (d6-CDCl3) δ 7.39 (d, 1H, J=5.7 Hz), 4.46 (d, 2H, J=2.2 Hz).

reactant | 1-chloro-2-chloromethyl-3,4-difluoro-5-trifluoromethyl-benzene | 3.8 mmol, 1.0 g | ClC1=C(C(=C(C(=C1)C(F)(F)F)F)F)CCl | C8H3Cl2F5
reactant | sodium iodide | 19 mmol, 2.8 g | [I-].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-Chloro-3,4-difluoro-2-iodomethyl-5-trifluoromethyl-benzene | 1.35 g, 100% | ClC1=C(C(=C(C(=C1)C(F)(F)F)F)F)CI | C8H3ClF5I
